US04144224
31.0 g (0.21 mol) of triacetonamine and 33.4 g (0.20 mol) of diethyl aminomethylphosphonate are dissolved in 500 ml of ethanol, and the solution is hydrogenated, with the addition of 3 g of platinum-on-charcoal (containing 5% of platinum) and 3 drops of concentrated sulphuric acid, under a slight excess pressure until the absorption of hydrogen has ceased. The catalyst is filtered off and the filtrate is distilled. In this way is obtained diethyl (2,2,6,6-tetramethyl-4-piperidyl)-aminomethylphosphonate as a fine fraction which boils, under a pressure of 0.35 mm Hg, at a temperature of 130°.

reactant | triacetonamine | 0.21 mol, 31.0 g | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
reactant | diethyl aminomethylphosphonate | 0.20 mol, 33.4 g | NCP(OCC)(OCC)=O | C5H14NO3P
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | sulphuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
catalyst | platinum-on-charcoal | 3 g | [Pt] | Pt
product | diethyl (2,2,6,6-tetramethyl-4-piperidyl)-aminomethylphosphonate | CC1(NC(CC(C1)C(N)P(OCC)(OCC)=O)(C)C)C | C14H31N2O3P
